US04584290
A mixture of benzhydryl 7-tert-butoxycarbonylamino-3-(2-tosyloxyvinyl)-3-cephem-4-carboxylate-1-oxide (trans isomer) (7 g) and 3-mercaptopyridine (1.33 g) in dimethylformamide (50 ml) containing diisopropylethylamine (4.5 g) was stirred at ambient temperature for 2 hours. The resulting solution was poured into a mixture of ice-cooled water (200 ml) and ethylacetate (200 ml). The separated organic layer was washed in turn with water, 10% aqueous hydrochloric acid and a saturated aqueous solution of sodium bicarbonate and brine. The solvent was evaporated in vacuo to give benzhydryl 7-tert-butoxycarbonylamino-3-[2-(3-pyridyl)thiovinyl]-3-cephem-4-carboxylate-1-oxide. (trans isomer) (5.2 g).

reactant | benzhydryl 7-tert-butoxycarbonylamino-3-(2-tosyloxyvinyl)-3-cephem-4-carboxylate-1-oxide | 7 g | C(C)(C)(C)OC(=O)NC1[C@@H]2N(C(=C(CS2=O)C=COS(=O)(=O)C2=CC=C(C)C=C2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C34H34N2O9S2
reactant | 3-mercaptopyridine | 1.33 g | SC=1C=NC=CC1 | C5H5NS
reactant | diisopropylethylamine | 4.5 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | water | 200 ml | O | H2O
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | ethylacetate | 200 ml | C(C)OC(C)=O | C4H8O2
product | benzhydryl 7-tert-butoxycarbonylamino-3-[2-(3-pyridyl)thiovinyl]-3-cephem-4-carboxylate-1-oxide | C(C)(C)(C)OC(=O)NC1[C@@H]2N(C(=C(CS2=O)C=CSC=2C=NC=CC2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C32H31N3O6S2
